US04409214
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (2.16 g) in N,N-dimethylformamide (20 ml) were added 3-bromophthalide (1.3 g) and sodium iodide (1.35 g), and the mixture was stirred at ambient temperature for 40 minutes. Thereto were added ethyl acetate (100 ml) and water (50 ml), and the separated ethyl acetate layer was washed with a saturated aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. After removal of the solvent, the residue (2.6 g) was chromatographed on silica gel (50 g) using a mixture of benzene and ethyl acetate as an eluent. The fractions containing the desired compound were collected and evaporated to give phthalid-3-yl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (1.4 g).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.16 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | 3-bromophthalide | 1.3 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | sodium iodide | 1.35 g | [I-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | phthalid-3-yl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 1.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC2OC(=O)C3=CC=CC=C23)C1=O)=NOC | C23H19N5O7S2
